US07071175B1
To a mixture of 2-(2-tert- butoxycarbonylamino-thiazol-5-ylmethyl)-malonic acid monoethyl ester (94 mg; 0.27 mmol), a 36% aqueous solution of formaldehyde (36 μl; 1.2 mmol), CH2Cl2 (0.2 mL) and water (0.2 mL) was added at 0° C. diethyl amine (30 μl; 0.40 mmol). The reaction mixture was stirred at room temperature overnight, poured onto ice-water and extracted with CH2Cl2. The combined organic phases were washed with 5% NaHCO3, dried and concentrated to yield 2-(2-tert-butoxycarbonylamino-thiazol-5-ylmethyl)-acrylic acid ethyl ester (69 mg, 80.9%).

reactant | 2-(2-tert- butoxycarbonylamino-thiazol-5-ylmethyl)-malonic acid monoethyl ester | 0.27 mmol, 94 mg | C(C)OC(C(C(=O)O)CC1=CN=C(S1)NC(=O)OC(C)(C)C)=O | C14H20N2O6S
reactant | formaldehyde | 1.2 mmol, 36 μl | C=O | CH2O
reactant | CH2Cl2 | 0.2 mL | C(Cl)Cl | CH2Cl2
reactant | diethyl amine | 0.40 mmol, 30 μl | C(C)NCC | C4H11N
solvent | water | 0.2 mL | O | H2O
product | 2-(2-tert-butoxycarbonylamino-thiazol-5-ylmethyl)-acrylic acid ethyl ester | 69 mg, 80.9% | C(C)OC(C(=C)CC1=CN=C(S1)NC(=O)OC(C)(C)C)=O | C14H20N2O4S
